US08877779B2
2-{3-(7-methyl-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide hydrochloride
In the same manner as in Example 2 and using 1-(7-methyl-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one, 2-{3-(7-methyl-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide was synthesized, which was then converted to hydrochloride with 4N hydrochloric acid-ethyl acetate solution to give the title compound as a brown solid.

reactant | 1-(7-methyl-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | CC=1C=CC=C2CCC(C12)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C22H25N3O
reactant | 2-{3-(7-methyl-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide | CC=1C=CC=C2CCC(C12)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC(=O)NC)=O | C25H30N4O2
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
product | 2-{3-(7-methyl-1-indan-1-ylpiperidin-4-yl)-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide hydrochloride | Cl.CC=1C=CC=C2CCC(C12)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC(=O)NC)=O | InChI=1S/C25H30N4O2.ClH/c1-17-6-5-7-18-10-11-22(24(17)18)27-14-12-19(13-15-27)29-21-9-4-3-8-20(21)28(25(29)31)16-23(30)26-2;/h3-9,19,22H,10-16H2,1-2H3,(H,26,30);1H
